US05243042
Diphenyldiazomethane (2.0 g, 10.3 mmol) was added to the suspension of 5-amino-1-(2,3,5-tris-O-acetyl-β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid (3.86 g, 10 mmol) in CH2Cl2 (50 mL). The mixture was stirred at room temperature for 16 h, by which time all the reactants had dissolved. The reaction mixture was poured onto the top of a column of silica gel (100 g, packed in CH2Cl2, collected 100-mL fractions), and the column was washed with 5% EtOAc in CH2Cl2 (300 mL), then the product was eluted with 40% EtOAc in CH2Cl2. Fractions 5 to 10 were combined and concentrated, then pumped under high vacuum overnight to give 5-amino-1-(2,3,5-tris-O-acetyl-β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid diphenylmethyl ester as a pale yellow foam: 4.86 g (88% yield); IR (CHCl3) 3445, 3345, 1752, and 1678 cm-1 ; HRMS (EI) m/z found 551.1870 [calcd for C28H29N3O9, 551.1904 (M+)]; NMR (CDCl3) δ2.13 (s, 9), 4.32 (d of d, 1,J=12 and 3 Hz), 4.40 (m, 1), 4.47 (d of d, 1,J=12 and 3 Hz), 5.30 (m, 1), 5.45 (t, 1, J=5 Hz), 5.48 (s, 2), 5.67 (d, 1, J=5 Hz), 7.08 (s, 1), 7.25 (m, 3), 7.32 (t, 4,J=7 Hz), UV max (CH3OH) 267 nm (ε12510).

reactant | Diphenyldiazomethane | 10.3 mmol, 2.0 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 5-amino-1-(2,3,5-tris-O-acetyl-β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid | 10 mmol, 3.86 g | NC1=C(N=CN1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(=O)O | C15H19N3O9
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-amino-1-(2,3,5-tris-O-acetyl-β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid diphenylmethyl ester | 88% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N=CN(C1N)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C28H29N3O9
